US07521437B2
Preparation of 7-iodosancycline and 7,9-diiodosancyline
Five grams of sancycline was dissolved in 85 mL of concentrated sulfuric acid that was cooled to 0° C. (on ice). N-iodosuccinimide (NIS) was added to the reaction in 300 mg portions every 15 minutes and reacted for 5 hours. The reaction is removed from the ice bath. The mixture, analyzed by HPLC or TLC, show the product of D-ring iodotetracyclines. After the reaction was complete, the sulfuric acid was dripped slowly 1 L of ice water and extracted 7 times with 300 mL of n-butanol. The solvent was removed in vacuo to produce a mixture of three products. The 7-iodo regioisomer, 9-regioisomer and 7,9-diiodosancycline derivative of sancycline were purified by preparative HPLC chromatography or by methods known in the art.

reactant | sancycline | Five grams | CN(C)[C@H]1[C@@H]2C[C@@H]3CC=4C=CC=C(C4C(=O)C3=C([C@@]2(C(=O)C(=C1O)C(=O)N)O)O)O | C21H22N2O7
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
solvent | sulfuric acid | 85 mL | S(O)(O)(=O)=O | H2O4S
product | 7-iodosancycline | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C=CC(=C4C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O)O)I | C21H21IN2O7
